US06083943
(2) (2R*,3S*,4S*,5S*)-4-Benzyloxymethyl-5-hydroxymethyl-3-methoxycarbonyl-2-phenylpyrrolidine
To a stirred and ice-cooled solution of (2R*,3S*,4S*,5S*)-4-benzyloxymethyl-3,5-bis(methoxycarbonyl)-2-phenylpyrrolidine (42.27 g, 0.11 mol) in anhydrous MeOH (Dojindo, 350 ml) was added NaBH4 (12.51 g, 0.33 mol) portionwise. The turbid reaction mixture was stirred with ice-cooling for 2 hours, and then at room temperature for 4.5 hours. The reaction mixture was re-cooled in the ice bath, and Hydrogen Chloride-Methanol Reagent 10 (Tokyo Kasei) was added until the mixture became acidic (pH 1-2). This was concentrated in vacuo, and the syrupy residue was basified to pH ca.10 by adding 10% NaOH aq. solution. The mixture was extracted with AcOEt (80 ml×5). The combined AcOEt extracts were washed with sat. NaCl aq. solution (×1), dried (Na2SO4), and concentrated in vacuo to give crude title compound (37.0 g, 95%) as a viscous pale yellow oil: IR νmax (film): 3330(s), 1730(vs), 1605(w), 1595(w), 1495(s), 1170(s), 750(s), 700(s) cm-1 ; 1H-NMR δ: 7.45-7.16(m, 10H), 4.58(d, J=8.3 Hz, 1H), 4.55(s, 2H), 3.85(dd, J=11.2, 4.6 Hz, 1H), 3.79(dd, J=11.2, 3.9 Hz, 1H), 3.58(dd, J=9.2, 5.3 Hz, 1H), 3,52(dd, J=9.2, 6.6 Hz, 1H), 3.35-3.25(m, 1H), 3.15(s, 3H), 3.14(dd, J=8.3, 5.7 Hz, 1H), 2.17(br.s, 2H) ppm. This was employed in the next step for salt formation without further purification.

reactant | (2R*,3S*,4S*,5S*)-4-benzyloxymethyl-3,5-bis(methoxycarbonyl)-2-phenylpyrrolidine | 0.11 mol, 42.27 g | C(C1=CC=CC=C1)OC[C@H]1[C@@H]([C@@H](N[C@@H]1C(=O)OC)C1=CC=CC=C1)C(=O)OC | C22H25NO5
reactant | NaBH4 | 0.33 mol, 12.51 g | [BH4-].[Na+]
reactant | Hydrogen Chloride Methanol | Cl.CO
solvent | MeOH | 350 ml | CO | CH4O
product | (2R*,3S*,4S*,5S*)-4-Benzyloxymethyl-5-hydroxymethyl-3-methoxycarbonyl-2-phenylpyrrolidine | 37.0 g, 95% | C(C1=CC=CC=C1)OC[C@H]1[C@@H]([C@@H](N[C@@H]1CO)C1=CC=CC=C1)C(=O)OC | C21H25NO4
